US05284853
2-Butyl-6-(l-hydroxyethyl)-4(IH)-quinazolinone
To a solution of 0.60 g of 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde in 30 ml of dry tetrahydrofuran, cooled to-0° C. is added dropwise, 2.61 ml of a 3.OM solution of methylmagnesium bromide in diethyl ether. The reaction is stirred at 0° C. for 30 minutes and then quenched with 10 ml of aqueous ammonium chloride. After diluting with 10 ml of water, the reaction mixture is extracted with 9:1 chloroformmethanol. The combined extracts are dried with magnesium sulfate, filtered and concentrated to yield 0.64 g of the desired product. CI MASS SPEC 247(MH+).

reactant | 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde | 0.60 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=O | C13H14N2O2
reactant | methylmagnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Butyl-6-(l-hydroxyethyl)-4(IH)-quinazolinone | 0.64 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C)O | C14H18N2O2
